* Two transformers + two tubes + global NFB
* Tests whether two transformer groups with tubes in between converges
*
* Input xfmr: HS-29 style (3-winding, 130H)
* Two tube stages (12AX7)
* Output xfmr: S-217-D style (3-winding, 9.5H) with NFB from tertiary
*
.model 12AX7 TRIODE(MU=100 EX=1.4 KG1=1060 KP=600 KVB=300)

* Power supply
Vcc vcc 0 DC 290

* === INPUT TRANSFORMER (HS-29 3-winding: pri, sec_a, sec_b at 130H, k=0.99) ===
L_in_pri in in_ct 130
L_in_sec_a grid_tap in_ct2 130
L_in_sec_b in_ct2 fb_inject 130
K_in1 L_in_pri L_in_sec_a 0.99
K_in2 L_in_pri L_in_sec_b 0.99
K_in3 L_in_sec_a L_in_sec_b 0.98
Rct1 in_ct 0 100
Rct1b in_ct2 0 100

* Grid coupling from input transformer
Rg1 grid_tap grid1 100k
Rg1_leak grid1 0 1Meg
* HS-29 sec_b connects to fb_node (like the real Pultec)
Rfb_inject fb_inject fb_node 1

* === STAGE 1 ===
T1 grid1 plate1 cathode1 12AX7
Ra1 vcc plate1 100k
Rk1 cathode1 fb_node 820

* === STAGE 2 ===
Cc plate1 grid2 10n
Rg2 grid2 0 470k
T2 grid2 plate2 cathode2 12AX7
Ra2 vcc plate2 100k
Rk2 cathode2 0 4.7k

* === OUTPUT TRANSFORMER (S-217-D style) ===
L_out_pri plate2 xfmr2_ct 9.525
Rct2 vcc xfmr2_ct 100
* Secondary
L_out_sec out 0 1.903
* Tertiary (feedback winding) with DC ground reference
L_out_tert fb_s1 fb_s2 2.4
Rfb_gnd_ref fb_s2 0 1Meg
* Couplings
K_out1 L_out_pri L_out_sec 0.95
K_out2 L_out_pri L_out_tert 0.95
K_out3 L_out_sec L_out_tert 0.95

* === FEEDBACK ===
* Tertiary -> shunt resistor -> feedback resistors to cathode/fb_node
Rfb_shunt fb_s1 fb_s2 1000
Rfb_a fb_s1 cathode1 360
Rfb_b fb_s2 fb_node 360

* fb_node connects cathode1 through Rk1 and receives feedback from tertiary
* This creates series-voltage NFB across the 820-ohm cathode resistor

* Output load
Rload out 0 100k

* Stability caps
C1 grid1 0 1n
C2 plate1 0 100p
C3 plate2 0 100p
C4 out 0 100p
